US04070539
Step A: 4-(1-Oxo-2-ethyl-6,7-dichloro-5-indanyloxy)-butyric Acid
6,7-Dichloro-2-ethyl-5-hydroxy-1-indanone (24.5 g., 0.1 mole) and anhydrous potassium carbonate (15.2 g., 0.11 mole) is stirred in dimethylformamide (100 ml.) while ethyl 4-bromobutyrate (21.4 g., 0.1 mole) is added dropwise. The mixture is stirred and heated at 55°-60° C. for two hours. Potassium hydroxide (7.92 g., 0.141 mole) in methanol (60 ml.) is then added. The solid mass that forms is broken up and the mixture is stirred at 80°-85° C. for 11/2 hours and poured into water (500 ml.). The aqueous mixture is heated to boiling, filtered and acidified (6N HCl). The solid that separates is collected, washed with water, air-dried and recrystallized from ethylacetate to obtain 25.6 g. of 4-(1(1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)butyric acid, m.p. 146°-148° C.

reactant | 6,7-Dichloro-2-ethyl-5-hydroxy-1-indanone | 0.1 mole, 24.5 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)CC)O | C11H10Cl2O2
reactant | potassium carbonate | 0.11 mole, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutyrate | 0.1 mole, 21.4 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | Potassium hydroxide | 0.141 mole, 7.92 g | [OH-].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 4-(1-Oxo-2-ethyl-6,7-dichloro-5-indanyloxy)-butyric Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCCCC(=O)O)CC | C15H16Cl2O4
